US04279912
0.85 g of imidazo-[1,2-a]-quinoline-2-carboxylic acid was dissolved in 25 ml of dry DMF and then 0.72 g of carbonyl diimidazole was added with stirring. The temperature was raised to 80° C. for 15 minutes and 0.57 g of (2-hydroxyethyl) piperidine was then added. The mixture was stirred at 100° C. for 3 hours and was cooled to room temperature and filtered. Then, 50 ml of water were added dropwise to the filtrate and the precipitate was filtered off, washed with water and dried under vacuum. This solid was crystallized from ethyl acetate/petroleum ether to obtain 2-piperidinoethyl imidazo-[1,2-a]-quinoline-2-carboxylate hemihydrate melting at 147°-150° C.

reactant | imidazo-[1,2-a]-quinoline-2-carboxylic acid | 0.85 g | C1=C(N=C2N1C1=CC=CC=C1C=C2)C(=O)O | C12H8N2O2
reactant | carbonyl diimidazole | 0.72 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | (2-hydroxyethyl) piperidine | 0.57 g | OCCN1CCCCC1 | C7H15NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-piperidinoethyl imidazo-[1,2-a]-quinoline-2-carboxylate hemihydrate | O.C1=C(N=C2N1C1=CC=CC=C1C=C2)C(=O)OCCN2CCCCC2.N2(CCCCC2)CCOC(=O)C=2N=C1N(C3=CC=CC=C3C=C1)C2 | InChI=1S/2C19H21N3O2.H2O/c2*23-19(24-13-12-21-10-4-1-5-11-21)16-14-22-17-7-3-2-6-15(17)8-9-18(22)20-16;/h2*2-3,6-9,14H,1,4-5,10-13H2;1H2
